US06974831B2
Preparation of 2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-(4-fluorobenzyl)-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid.
A solution of 2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-(4-fluorobenzyl)-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid methyl ester (0.34 g, 0.78 mmol) in tetrahydrofuran (15 mL) and methanol (15 mL) was treated with 1 M aqueous lithium hydroxide solution (20 mL) at room temperature for 66 h. The mixture was concentrated in vacuo and the residue acidified with concentrated hydrochloric acid. The resulting precipitate was collected via vacuum filtration, washed with water, and air-dried to provide 168 mg (51%) of the title compound as a green solid: mp 199-201° C. (dec). 1H NMR (DMSO-d6) δ 13.10 (bs, 1H), 7.18 (m, 2H), 6.95 (m, 2H), 6.50 (s, 1H), 5.55 (s, 2H), 4.62 (s, 2H), 2.95 (t, J=6.6 Hz, 2H), 2.83 (t, J=7.0 Hz, 2H), 2.50 (s, 3H), 1.98 (quintet, J=7.3 Hz, 2H).

reactant | 2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-(4-fluorobenzyl)-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid methyl ester | 0.78 mmol, 0.34 g | COC(COC1=C2C(=C(N(C2=C2C(=C1)CCC2)CC2=CC=C(C=C2)F)C)C(C(=O)N)=O)=O | C24H23FN2O5
reactant | lithium hydroxide | 1 M, 20 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | methanol | 15 mL | CO | CH4O
product | 2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-(4-fluorobenzyl)-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid | 168 mg, 51% | NC(C(=O)C1=C(N(C2=C3C(=CC(=C12)OCC(=O)O)CCC3)CC3=CC=C(C=C3)F)C)=O | C23H21FN2O5
